US04254116
5,5-Dimethyl-8-(1-pentyl)-10-[4-(piperidino)butyryloxy]-5H-[1]benzopyrano[3,4-d]pyridine hydrochloride is prepared according to the method of Example 29 by reacting equimolar quantities of 5,5-dimethyl-10-hydroxy-8-(1-pentyl)-5H-[1]benzopyrano[3,4-d]pyridine and γ-piperidinobutyric acid hydrochloride in the presence of dicyclohexylcarbodiimide.

reactant | 5,5-dimethyl-10-hydroxy-8-(1-pentyl)-5H-[1]benzopyrano[3,4-d]pyridine | CC1(OC2=C(C(=CC(=C2)CCCCC)O)C=2C1=CC=NC2)C | C19H23NO2
reactant | γ-piperidinobutyric acid hydrochloride | Cl.N1(CCCCC1)CCCC(=O)O
reactant | dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
product | 5,5-Dimethyl-8-(1-pentyl)-10-[4-(piperidino)butyryloxy]-5H-[1]benzopyrano[3,4-d]pyridine hydrochloride | Cl.CC1(OC2=C(C(=CC(=C2)CCCCC)OC(CCCN2CCCCC2)=O)C=2C1=CC=NC2)C | InChI=1S/C28H38N2O3.ClH/c1-4-5-7-11-21-18-24(32-26(31)12-10-17-30-15-8-6-9-16-30)27-22-20-29-14-13-23(22)28(2,3)33-25(27)19-21;/h13-14,18-20H,4-12,15-17H2,1-3H3;1H
